US04897391
Combine N-(tert.-butyloxycarbonyl)-glycine (8.8 g), 1,1'-carbonyldiimidazole (8.1 g), and N,N-dimethylformamide (40 ml) at 10° C., and, after 10 min., add 8,10-bis(acetyloxy)-1,2,3,4-tetrahydro-11-methyl-6H-benzo[b]quinolizin-6-one (2.45 g) in N,N-dimethylformamide (40 ml) followed by 4-dimethylaminopyridine (6.1 g). Stir the reaction mixture at 25° C. overnight. Dilute the reaction mixture with water (250 ml) and extract with ethyl acetate. Combine the organic extracts, and wash them sequentially with water, saturated sodium bicarbonate solution, water, 5% aqueous acetic acid, and with water. Concentrate the dried, filtered ethyl acetate solution to give a residue. Chromatograph the residue over silica gel, and elute the column with 1°-2% methanol in dichloromethane. Combine fractions to give 8,10bis[(aminoacetyl)oxy]-11-methyl-1,2,3,4-tetrahydro-6H-benzo[b]quinolizine-6-one, m.p. 163°-164° C. (from MeOH-CH2Cl2). Use this material directly in the next step.

reactant | N-(tert.-butyloxycarbonyl)-glycine | 8.8 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 1,1'-carbonyldiimidazole | 8.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 8,10-bis(acetyloxy)-1,2,3,4-tetrahydro-11-methyl-6H-benzo[b]quinolizin-6-one | 2.45 g | C(C)(=O)OC1=CC2=C(C(=C3CCCCN3C2=O)C)C(=C1)OC(C)=O | C18H19NO5
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 6.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 250 ml | O | H2O
product | 8,10bis[(aminoacetyl)oxy]-11-methyl-1,2,3,4-tetrahydro-6H-benzo[b]quinolizine-6-one | NCC(=O)OC1=CC2=C(C(=C3CCCCN3C2=O)C)C(=C1)OC(CN)=O | C18H21N3O5
